US08957069B2
1-(6-bromo-2,2,4,7-tetramethyl-2,3-dihydro-1-benzofuran-5-yl)-4-(4-methoxyphenyl)piperazine
By using 6-bromo-N,N-bis(2-chloroethyl)-2,2,4,7-tetramethyl-2,3-dihydro-1-benzofuran-5-amine (492 mg, 1.25 mmol) synthesized in Reference Example 152 and 4-methoxyaniline (185 mg, 1.50 mmol), the reaction was carried out in the same manner as Example 117 to synthesize 138 mg of the title compound (yield 25%).

reactant | 6-bromo-N,N-bis(2-chloroethyl)-2,2,4,7-tetramethyl-2,3-dihydro-1-benzofuran-5-amine | 1.25 mmol, 492 mg | BrC1=C(C2=C(CC(O2)(C)C)C(=C1N(CCCl)CCCl)C)C | C16H22BrCl2NO
reactant | 4-methoxyaniline | 1.50 mmol, 185 mg | COC1=CC=C(N)C=C1 | C7H9NO
product | 1-(6-bromo-2,2,4,7-tetramethyl-2,3-dihydro-1-benzofuran-5-yl)-4-(4-methoxyphenyl)piperazine | 138 mg, yield 25% | BrC1=C(C2=C(CC(O2)(C)C)C(=C1N1CCN(CC1)C1=CC=C(C=C1)OC)C)C | C23H29BrN2O2
